US05767131
3-(4-Diphenylmethylpiperidin-1-yl)propionitrile
To a solution of diphenyl-4-piperidylmethane (810 mg, 3.22 mmol, 1.00 equiv) in EtOH (5 mL) was added acrylonitrile (0.53 mL, 8.06 mmol, 2.50 equiv) dropwise at 0° C. The mixture was stirred at room temperature for 1.5 hours and then concentrated. The residue was purified by flash chromatography (SiO2, EtOAc-hexane 9:1 to 2:1) to give 480 mg (49%) of white solid, which was characterized spectroscopically.

reactant | diphenyl-4-piperidylmethane | 3.22 mmol, 810 mg, 1.00 equiv | C1(=CC=CC=C1)C(C1CCNCC1)C1=CC=CC=C1 | C18H21N
reactant | acrylonitrile | 8.06 mmol, 0.53 mL, 2.50 equiv | C(C=C)#N | C3H3N
solvent | EtOH | 5 mL | CCO | C2H6O
product | 3-(4-Diphenylmethylpiperidin-1-yl)propionitrile | 480 mg, 49% | C1(=CC=CC=C1)C(C1CCN(CC1)CCC#N)C1=CC=CC=C1 | C21H24N2
